US08227500B2
4-[4-(2-Benzyloxyphenyl)-3-cyanopyrrole-1-yl]-2-methoxymethoxy-benzoic acid ethyl ester
To a solution of 4-(2-benzyloxyphenyl)-1H-pyrrole-3-carbonitrile (1.5 g), 4-fluoro-2-methoxymethoxybenzoic acid ethyl ester (1.4 g) in N,N-dimethylformamide (25 mL) was added cesium carbonate, and this mixture was stirred at 65° C. for 15 hours. This reaction mixture was poured into water, the precipitated solid was collected by filtration, and washed with water and n-hexane, dried under reduced pressure at 50° C. to give the title compound (2.3 g).

reactant | 4-(2-benzyloxyphenyl)-1H-pyrrole-3-carbonitrile | 1.5 g | C(C1=CC=CC=C1)OC1=C(C=CC=C1)C=1C(=CNC1)C#N | C18H14N2O
reactant | 4-fluoro-2-methoxymethoxybenzoic acid ethyl ester | 1.4 g | C(C)OC(C1=C(C=C(C=C1)F)OCOC)=O | C11H13FO4
reactant | cesium carbonate | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 25 mL | CN(C=O)C | C3H7NO
product | 4-[4-(2-Benzyloxyphenyl)-3-cyanopyrrole-1-yl]-2-methoxymethoxy-benzoic acid ethyl ester | 2.3 g | C(C)OC(C1=C(C=C(C=C1)N1C=C(C(=C1)C1=C(C=CC=C1)OCC1=CC=CC=C1)C#N)OCOC)=O | C29H26N2O5
